US07872123B2
The ammonium hydrogencarbonate (1.26 equiv) was added to the stirred solution of carbobenzyloxy-L-proline (1 equiv), pyridine and Boc2O (1.30 equiv) in acetonitrile and stirred for 20 h. The solvent was removed, and the residue was diluted with ethyl acetate, washed with water, extracted with ethyl acetate, dried over MgSO4 and evaporated in vacuo to afford N-benzyloxycarbonyl-L-prolinamide as colorless crystals. 1H NMR (CDCl3, 400 MHz) δ7.36 (m, 5H, Ar—H), 6.71 (s, 1H, NHH), 5.81 (s, 1H, NHH), 5.20 (d, 1H, J=12 Hz, OCHH), 5.15 (d, 1H, J=12 Hz, OCHH), 4.32 (m, 1H, NCH), 3.53 (m, 2H, NCH2), 1.91-2.33 (m, 4H, CH2CH2);

reactant | ammonium hydrogencarbonate | 1.26 equiv | C(O)([O-])=O.[NH4+]
reactant | carbobenzyloxy-L-proline | 1 equiv | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | Boc2O | 1.30 equiv | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | C(C)#N | C2H3N
product | N-benzyloxycarbonyl-L-prolinamide | C(C1=CC=CC=C1)OC(=O)NC([C@H]1NCCC1)=O | C13H16N2O3
